US07625905B2
1-(4-{3-[5-(4,6-Dimethyl-pyrimidine-5-carbonyl)-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl]-1-phenyl-propyl}-piperidin-1-yl)-2-methyl-propan-1-one (V-15)
The following were prepared analogously from (4,6-dimethyl-pyrimidin-5-yl)-[5-(3-phenyl-3-piperidin-4-yl-propyl)-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl]-methanone using the acylating agent in parenthesis in place of pivaloyl chloride: V-13 (propionyl chloride), V-14 (3-methyl-butyryl chloride), V-19 (isobutyryl chloride), V-16 (methoxyacetyl chloride), V-17 (cyclopentylacetyl chloride) and V-22 (TFAA).

reactant | (4,6-dimethyl-pyrimidin-5-yl)-[5-(3-phenyl-3-piperidin-4-yl-propyl)-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl]-methanone | CC1=NC=NC(=C1C(=O)N1CC2CN(CC2C1)CCC(C1CCNCC1)C1=CC=CC=C1)C | C27H37N5O
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
reactant | 3-methyl-butyryl chloride | CC(CC(=O)Cl)C | C5H9ClO
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
reactant | cyclopentylacetyl chloride | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | TFAA | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
product | 1-(4-{3-[5-(4,6-Dimethyl-pyrimidine-5-carbonyl)-hexahydro-pyrrolo[3,4-c]pyrrol-2-yl]-1-phenyl-propyl}-piperidin-1-yl)-2-methyl-propan-1-one | CC1=NC=NC(=C1C(=O)N1CC2C(C1)CN(C2)CCC(C2=CC=CC=C2)C2CCN(CC2)C(C(C)C)=O)C | C31H43N5O2
